US06362230B1
Preparation of N-[2-[4-cyano-cyclohexyl]-propyl] 2-propanesulfonamide
To a −15° C. solution of 1 eq. of N-[2-[4-oxocyclohexyl]propyl] 2-propanesulfonamide (see Preparation 2) and 1 eq. of tosylmethyl isocyanide in dimethoxyethane is added a solution of 2.8 eq. of potassium t-butoxide in t-butanol. The cooling bath is removed and the mixture is stirred for three hours. The mixture is then diluted with water and extracted three times with diethyl ether. The combined organic extracts are dried over MgSO4, filtered and concentrated in vacuo to provide the crude material. Chromatography (silica gel) of the crude material affords the purified title compound.

reactant | N-[2-[4-oxocyclohexyl]propyl] 2-propanesulfonamide | 1 eq. | O=C1CCC(CC1)C(CNS(=O)(=O)C(C)C)C | C12H23NO3S
reactant | tosylmethyl isocyanide | 1 eq. | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | potassium t-butoxide | 2.8 eq. | CC(C)([O-])C.[K+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | N-[2-[4-cyano-cyclohexyl]-propyl] 2-propanesulfonamide | C(#N)C1CCC(CC1)C(CNS(=O)(=O)C(C)C)C | C13H24N2O2S
